US07067517B2
Morpholine-4-carboxylic acid 4-(3,5-dichloro-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(3,5-dichloro-pyridin-2-yloxy)-phenol and morpholine-4-carbonyl chloride. The crude product was purified by preparative HPLC (45%, crystals. HPLC-MS m/z=369.1 (M+1), Rt: 4.3 min.

reactant | 4-(3,5-dichloro-pyridin-2-yloxy)-phenol | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)O | C11H7Cl2NO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Morpholine-4-carboxylic acid 4-(3,5-dichloro-pyridin-2-yloxy)-phenyl ester | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)OC(=O)N1CCOCC1 | C16H14Cl2N2O4
